US09061994B1
Synthesis of trans-3-(2-methyl-1H-indol-3-yl)-1-(4-pyridinyl)-2-propen-1-one (2)
To a dried 500 mL round bottom flask under argon, 2-methylindole-3-carboxaldehyde (400 mg, 2.51 mmol) was dissolved in anhydrous MeOH (10 mL). 4-Acetyl-pyridine (305 μL, 2.76 mmol, 1.1 equiv.) and piperidine (82 μL, 0.83 mmol) were added and the reaction was stirred under reflux. A red-orange precipitate gradually formed, and after twelve hours this solid was isolated by filtration, rinsed with chilled methanol and dried under vacuum, producing 458 mg (69%) of yellow solid. NMR: 1H NMR (600 MHz, d6-DMSO): δ 12.017 (s, 1H, N—H), 8.816-8.806 (dd, J1=4.5, J2=2.1, 2H, pyr-2,6H), 8.121-8.095 (d, J=15.6, 1H, C═CH), 8.077-8.063 (m, 1H, indole-4H), 7.975-7.965 (dd, J1=4.5, J2=1.5, 2H, pyr-3,5H), 7.489-7.464 (d, J=15.6, 1H, C═CH), 7.415-7.400 (m, 1H, indole-7H), 7.220-7.200 (m, 2H, indole-5,6H), 2.596 (s, 3H, methyl). 13C NMR (150 MHz, d6-DMSO): δ 188.0, 150.7, 145.6, 144.9, 139.5, 136.3, 125.8, 122.4, 121.50, 121.46, 120.4, 113.1, 111.7, 109.4, 11.9. Melting Point: 268-272° C. TLC: (ethyl acetate:hexanes 4:1) Rf=0.18. Elemental analysis calculated for C17H14N2O: C, 77.84; H, 5.38; N, 10.68. found: C, 77.96; H, 5.28; N, 10.59.

reactant | 2-methylindole-3-carboxaldehyde | 2.51 mmol, 400 mg | CC=1NC2=CC=CC=C2C1C=O | C10H9NO
reactant | 4-Acetyl-pyridine | 2.76 mmol, 305 μL, 1.1 equiv. | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | piperidine | 0.83 mmol, 82 μL | N1CCCCC1 | C5H11N
solvent | MeOH | 10 mL | CO | CH4O
product | trans-3-(2-methyl-1H-indol-3-yl)-1-(4-pyridinyl)-2-propen-1-one | 458 mg, 69% | CC=1NC2=CC=CC=C2C1/C=C/C(=O)C1=CC=NC=C1 | C17H14N2O
